US04180522
In the manner given in Example 5, 3,4-dibromoaniline, 3-chloro-2-methyl-1-dimethylaminopropane hydrochloride and sodium carbonate are heated in toluene to give N'-(3,4-dibromophenyl)-N,N,2-trimethylpropane-1,3-diamine.

reactant | 3,4-dibromoaniline | BrC=1C=C(N)C=CC1Br | C6H5Br2N
reactant | 3-chloro-2-methyl-1-dimethylaminopropane hydrochloride | Cl.ClCC(CN(C)C)C
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N'-(3,4-dibromophenyl)-N,N,2-trimethylpropane-1,3-diamine | BrC=1C=C(C=CC1Br)NCC(CN(C)C)C | C12H18Br2N2
